Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
Colonoscopy ___
EGD with duodenal ulcer biopsy ___
 
History of Present Illness:
Mr ___ is a very pleasant ___ y/o AAM w/PMH significant for 
ankylosing spondylitis who presents for evaluation of 
hematochezia. For the past week, pt has had several episodes of 
diarrhea. This morning, pt had another episode of diarrhea 
preceded by stomach discomfort, which he describes as "very 
purple". Pt subsequently felt very dizzy and flushed after 
climbing some stairs. Pt otherwise denies any abdominal pain, 
nausea, vomiting, recent changes in appetite/diet, fever, 
chills, night sweats or difficulty urinating. EMS was called, 
and pt was taken to ___. On arrival, his 
vitals were: T 98.2, BP 129/89, HR 73, RR 23 and SaO2 of 98% on 
RA. His Hgb was found to be 12.4, down from previous Hgb of 14.8 
in ___. Per a signout, pt had an episode of BRBPR while on 
the medicine floor at which point he was transferred to the ICU. 
By the time of transfer, his Hgb was 10.8. Of note, pt's parets 
are Jehova's witnesses and he does not wish to receive blood 
products.

Pt had similar episode ___ yrs ago at ___. 
His Hgb dropped to 8.1. EGD/colonoscopy and biopsies were 
negative, and bleeding stopped spontaneously.

 
Past Medical History:
Ankylosing spondylitis diagnosed ___ years ago
Hx of GI bleeding
 
Social History:
___
Family History:
Cousin with ___ spondylitis

 
Physical Exam:
On admission:

General: Very pleasant, well-appearing AAM in NAD.
CV: RRR. No MRG.
HEENT: MMM. PERRL bilaterally. EOMI.
Pulmonary: CTAB. No MRG
GI: Normoactive BS. No bruits appreciated. NTND. No hepatomegaly 
appreciated. Stool guaic positive.
GU: No BPH appreciated. To prostate tenderness.
Extremities: No peripheral edema. 2+ pulses bilaterally.
Neuro: AOx4. CNII-XII grossly intact.

 
Pertinent Results:
Labs (from ___ on ___:
WBC: 12.40
RBC: 3.80
HGB; 12.4
HCT: 35.7
T/S: A neg, Ab neg, DAT neg
___: 13.6
INR: 1.1
Na: 139
K: 4.6
Cl: 104
CO2: 27
BUN: 33
Cr: 1.1
Glucose: 99
Alb: 3.7
Ca: 8.9
Tbili: 0.6
Dbili: 0.1
AlkPhos: 51
AST: 16
UA: Normal
 
Imaging:
___ Abdominal CT from ___:
1. Mild thickening of the rectal wall w/o surrounding stranding. 
The findings could represent proctitis
2. Fullness and heterogeneous appearance of the seminal vesicles
3. No specific mesenteric adenopathy
4. Sclerosis and irregularity of the L5-S1 endplate

___ ECG from ___: 80bpm. Normal 
intervals.
 
___ CXR PA and Lateral from ___:
1. No evidence of acute cardiopulmonary disease

 
Brief Hospital Course:
Pt is a ___ Y/O M with PMH of Ankylosing spondylitis who 
presented with maroon colored stools, dizzyness while walking up 
stair,s and hemoglobin drop from 14 (baseline) to 10. 

#GI bleed: Patient was stable on arrival to MICU. Pt was made 
NPO and was given protonix 40mg BID. He was also supplemented 
with ferrous gluconate IV and B12/folate PO. Blood draws were 
limited to Q12 in pediatric tubes. Initial labs showed H/H of 
9.6/27.6, and patient was started on ___ epoiten alfa with a 
planned every other day treatment. A repeat H/H was 10.2/28.5. 
Patient was started on a bowel prep on ___ for planned 
EGD/Colonoscopy on ___. Hct dropped to 24.0 on ___, 
but pt was asmptomatic, and noted his stools stopped being 
maroon colored. Otherwise, his bowel prep was unremarkable, and 
pt underwent EGD/colonoscopy. EGD showed few small shallow 
healinh duodenal ulcers without stigmata of bleeding or 
high-risk features. The stomach was biopsied for H pylori. 
Colonoscopy was normal.

#Ankylosing spondylitis: Pt did not endorse significant symptoms 
related to his disease, and no treatment was given.

Transitional Issues
[ ] The biopsy results from EGD need to be follow up with GI on 
outpatient
[ ] Duration of high dose PPi therapy needs to be determined as 
outpt by GI. 
[ ] Pt discharged on 30 day course of B12, folate, iron for 
anemia ___ GI bleed
[ ] H Pylori serologies came back positive after patient D/C. 
Prescription for quad therapy (bismuth, metronidazole and 
tetracycline) sent to patient's pharmacy on ___, for 2 
week course to end ___. 

 
Medications on Admission:
None
 
Discharge Medications:
1. Cyanocobalamin 50 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) [Vitamin B-12] 50 mcg 1 
lozenge(s) by mouth daily Disp #*30 Lozenge Refills:*0
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*120 Tablet Refills:*0
4. Ferrous GLUCONATE 324 mg PO DAILY 
RX *ferrous gluconate 324 mg (38 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenitis
Bleeding duodenal ulcers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ came to the hospital due to some concerning for bleeding 
from your rectum, and feeling lightheaded. ___ were brought to 
the hospital where ___ were managed with fluids to keep your 
blood pressure up, and vitamins to keep your red blood cell 
high. In addition, over the course of your hospital stay, ___ 
bleeding stopped and your blood pressure stayed stable, and a 
scope was used to assess your colon and your upper GI tract. 
Your colon looked normal, but your duodenum (first part of ___ 
small bowel) had some small healing ulcers that looked like the 
source of your bleeding. ___ are being discharged with a 
medicine (pantoprazole) to help lower your stomach acid to help 
your ulcers heal (take two times daily), and vitamins to help 
increase your red blood cell count. Please follow up with your 
PCP and our gastroenterology specialist to concerning the final 
results of your colonscopy and esophagogastroduodenoscopy. ___ 
will need to follow up with our gastroenterology department to 
follow up on the results of your biopsies, and to determine how 
long ___ need to take the pantoprazole. Please make sure ___ do 
not take any NSAIDS (aspirin, ibuprofen, motrin, etc), abstain 
fro alcohol, and abstain from smoking.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___